US06288061B1
Ethyl 2-hydroxyimino-3-phenyl-3-oxopropionate (36.1 g) and 4-nitrobenzylamine (27.9 g) were reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 2-(4-nitrophenyl)-5-phenylimidazole-4-carboxylate (19.2 g). 18.0 g therefrom was dissolved in ethyl alcohol. 1 M Sodium hydroxide solution was added and the mixture was reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 2-(4-nitrophenyl)-5-phenylimidazole-4-carboxylic acid (12.8 g), melting point 175-178° C. (decomposition).

reactant | Ethyl 2-hydroxyimino-3-phenyl-3-oxopropionate | 36.1 g | ON=C(C(=O)OCC)C(=O)C1=CC=CC=C1 | C11H11NO4
reactant | 4-nitrobenzylamine | 27.9 g | [N+](=O)([O-])C1=CC=C(CN)C=C1 | C7H8N2O2
product | ethyl 2-(4-nitrophenyl)-5-phenylimidazole-4-carboxylate | 19.2 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1NC(=C(N1)C(=O)OCC)C1=CC=CC=C1 | C18H15N3O4
